US07932410B2
The Grignard solution is then added to a mixture of 1,4-pentadien-3-yl isobutyrate ester (114 g, 0.740 mol) and LiCuBr2 reagent (1 M/THF, 86 mL) at a rate that maintains the reaction temperature between 25-30° C., with cooling as necessary. The mixture is stirred for 15 minutes then quenched with aqueous citric acid solution (1 L). The layers are separated and the organic portion is washed with water (2×) and dilute sodium hydroxide solution (until pH basic). The crude organic portion is then stripped of solvent and distilled to afford 56.2 g of the 11,13-tetradecadienal DEA product (b.p. 150° C., 0.1 mm Hg, Yld. 27%, m/z 282), which is subsequently deprotected at room temperature with formic acid in heptane to give 11,13-tetradecadienal (40.0 g, Yld. 94%, E/Z 76:24).

reactant | formic acid | C(=O)O | CH2O2
reactant | heptane | CCCCCCC | C7H16
product | 11,13-tetradecadienal | 40.0 g, 94% | C(CCCCCCCCCC=CC=C)=O | C14H24O
